US04562186
[3-(4-Chlorobenzoyl)-1,2,4-oxadiazol-5-yl]acetamide
A mixture of 2.8 g of [3-(4-chlorobenzoyl)-1,2,4-oxadiazol-5-yl]acetonitrile and 25 ml of 98% H2SO4 was stirred at room temperature overnight. The resulting solution was added slowly to 500 ml of ice water with mechanical stirring to precipitate a solid. The collected solid was washed with excess water and dried in vacuo to give 2.6 g of a solid. Recrystallization from isopropanol yielded 2.12 g (71%) of crystals, m.p. 156°-158°.

reactant | [3-(4-chlorobenzoyl)-1,2,4-oxadiazol-5-yl]acetonitrile | 2.8 g | ClC1=CC=C(C(=O)C2=NOC(=N2)CC#N)C=C1 | C11H6ClN3O2
reactant | H2SO4 | 25 ml | OS(=O)(=O)O | H2O4S
product | [3-(4-Chlorobenzoyl)-1,2,4-oxadiazol-5-yl]acetamide | 2.6 g | ClC1=CC=C(C(=O)C2=NOC(=N2)CC(=O)N)C=C1 | C11H8ClN3O3
